US07582761B2
(a) 1-(3-Chloropyridin-2-yl)piperidine-4-carboxylic acid methyl ester
2,3-Dichloropyridine (1.48 g, 10 mmol, Aldrich) and piperidine-4-carboxylic acid methyl ester (1.43 g, 10 mmol, Aldrich) were reacted under the conditions of Example 3a to give the title compound as a colorless viscous oil. MS (ESI, pos. ion) m/z: 256 (M+1).

reactant | 2,3-Dichloropyridine | 10 mmol, 1.48 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | piperidine-4-carboxylic acid methyl ester | 10 mmol, 1.43 g | COC(=O)C1CCNCC1 | C7H13NO2
product | 1-(3-Chloropyridin-2-yl)piperidine-4-carboxylic acid methyl ester | COC(=O)C1CCN(CC1)C1=NC=CC=C1Cl | C12H15ClN2O2
